US05389633
Production of 6-(4,4-dimethyl-6-sulfamoyl-1-hexyloxy)-7-methyl[1,2,4]triazolo[1,5-b]pyridazine
Using 6-(N,N-dimethylaminomethylene)aminosulfonyl-4,4-dimethyl-1-hexanol and 6-chloro-7-methyl[1,2,4]triazolo[1,5-b]pyridazine, the same reaction as in Example 6 was conducted to produce the title compound. m.p. 154°-155° C.

reactant | 6-(N,N-dimethylaminomethylene)aminosulfonyl-4,4-dimethyl-1-hexanol | CN(C)C=NS(=O)(=O)CCC(CCCO)(C)C | C11H24N2O3S
reactant | 6-chloro-7-methyl[1,2,4]triazolo[1,5-b]pyridazine | ClC=1C(=CC=2N(N1)N=CN2)C | C6H5ClN4
product | 6-(4,4-dimethyl-6-sulfamoyl-1-hexyloxy)-7-methyl[1,2,4]triazolo[1,5-b]pyridazine | CC(CCCOC=1C(=CC=2N(N1)N=CN2)C)(CCS(N)(=O)=O)C | C14H23N5O3S
